US04861791
A 2 L, 3 necked, round bottom flask was charged with 2-aminoethanol (240 gm; 3.93 moles) and heated to 80° C. Methyl 3,5-dichloro-4-hydroxybenzoate (432 gm; 1.96 moles ) was added in portions through a powder funnel. The resulting amber solution was heated to 145° C. and the liberated methanol distilled into a Dean Stark trap. The reaction requires about 3.5 hrs. Upon completion, the solution was cooled to 90°-100° C. and dissolved in 1.95 L H2O. The aqueous solution was cooled to 25° C., placed in an ice bath and made slightly acidic with concentrated hydrochloric acid (196 ml; 2.35 moles). The product precipitated and filtration afforded a white solid. After drying at 50° C. in a vacuum oven, the product darkened slightly. The crude material (384.4 gm; 78.8%) was ground and passed through a No. 20 mesh screen to produce 3,5-dichloro-4-hydroxy-N-(2-hydroxyethyl)benzamide as a cream colored solid (m.p. 174°-178° C.) which is suitable for use in the next step.

reactant | 2-aminoethanol | 3.93 moles, 240 gm | NCCO | C2H7NO
reactant | Methyl 3,5-dichloro-4-hydroxybenzoate | 1.96 moles, 432 gm | ClC=1C=C(C(=O)OC)C=C(C1O)Cl | C8H6Cl2O3
reactant | hydrochloric acid | 2.35 moles, 196 ml | Cl | ClH
product | 3,5-dichloro-4-hydroxy-N-(2-hydroxyethyl)benzamide | ClC=1C=C(C(=O)NCCO)C=C(C1O)Cl | C9H9Cl2NO3
